US08957080B2
Synthesis of N-(3-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-2,2-dimethylpropyl)-2-cyano-3-cyclopropylacrylamide
A solution of N-(3-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-2,2-dimethylpropyl)-2-cyanoacetamide (0.12 g, 0.26 mmol, 1.0 eq.), cyclopropanecarbaldehyde (56 mg, 0.78 mmol, 3.0 eq.) and a drop of piperidine in ethanol (15 mL) was refluxed overnight. The volatile phase was removed under reduced pressure. The residue was applied on silica gel eluting with petroleum: ethyl acetate (1:1). This provided 50 mg (38%) of the title compound as a white solid. MS (ESI, pos. ion) m/z: 508 (M+1) H-NMR (300 MHz, DMSO-d6, ppm): 8.59 (t, 1H), 8.29 (s, 1H), 7.69-7.66 (d, J=9.6 Hz, 2H), 7.46-7.41 (t, J=6.6, 7.5 Hz, 2H), 7.21-7.11 (m, 5H), 7.05-7.02 (d, 10.4 Hz, 1H), 4.18 (s, 2H), 3.04-3.02 (d, J=6.3 Hz, 2H), 1.98-1.93 (m, 1H), 1.21-1.26 (m, 2H), 1.0-0.92 (m, 2H), 0.91 (s, 6H).

reactant | N-(3-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-2,2-dimethylpropyl)-2-cyanoacetamide | 0.26 mmol, 0.12 g, 1.0 eq. | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CC(CNC(CC#N)=O)(C)C | C25H25N7O2
reactant | cyclopropanecarbaldehyde | 0.78 mmol, 56 mg, 3.0 eq. | C1(CC1)C=O | C4H6O
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(3-(4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-2,2-dimethylpropyl)-2-cyano-3-cyclopropylacrylamide | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CC(CNC(C(=CC2CC2)C#N)=O)(C)C | C29H29N7O2
